US07541374B2
The mixture of 2.74 g of 3-(trifluoromethyl)-1H-1,2,4-triazole and 1.20 g of paraformaldehyde was stirred at 150° C. for 5 hours. After the reaction mixture was cooled to room temperature, acetone was added to the reaction mixture, and the mixture was filtered. The filtrate was concentrated. The residue was subjected to silica gel column chromatography to obtain 3.15 g of 3-(trifluoromethyl)-1H-1,2,4-triazole 1-ylmethanol.

reactant | 3-(trifluoromethyl)-1H-1,2,4-triazole | 2.74 g | FC(C1=NNC=N1)(F)F | C3H2F3N3
reactant | paraformaldehyde | 1.20 g | C=O | CH2O
solvent | acetone | CC(=O)C | C3H6O
product | 3-(trifluoromethyl)-1H-1,2,4-triazole 1-ylmethanol | 3.15 g | FC(C1=NN(C=N1)CO)(F)F | C4H4F3N3O
